US08466282B2
Tert-butyl (3S,5R)-3-[{[1-(2-fluorophenyl)-5-(hydroxymethyl)-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate
1-tert-Butyl 3-methyl(3R,5S)-5-[{[1-(2-fluorophenyl)-5-(hydroxymethyl)-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]piperidine-1,3-dicarboxylate (1.05 g) was dissolved in THF (10 ml)-methanol (8 ml)-water (8 ml), 8M aqueous sodium hydroxide solution (600 μl) was added and the mixture was stirred at 70° C. for 1.5 hr. The reaction mixture was cooled to room temperature and concentrated under reduced pressure. The residue was diluted with water, neutralized with saturated aqueous ammonium chloride solution and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue, morpholine, 1-hydroxybenzotriazole (150 mg) and triethylamine (700 μl) were dissolved in acetonitrile (20 ml), WSC.HCL (555 mg) was added and the mixture was stirred at room temperature for 8 hr. The reaction mixture was concentrated under reduced pressure, diluted with ethyl acetate and washed with water. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (10:90-100:0) was concentrated under reduced pressure to give the object product (764 mg).

reactant | 1-tert-Butyl 3-methyl(3R,5S)-5-[{[1-(2-fluorophenyl)-5-(hydroxymethyl)-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]piperidine-1,3-dicarboxylate | 1.05 g | FC1=C(C=CC=C1)N1N=NC(=C1CO)C(=O)N([C@H]1C[C@H](CN(C1)C(=O)OC(C)(C)C)C(=O)OC)CC(C)C | C26H36FN5O6
reactant | methanol | 8 ml | CO | CH4O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 8 ml | O | H2O
solvent | sodium hydroxide | 8M, 600 μl | [OH-].[Na+]
product | Tert-butyl (3S,5R)-3-[{[1-(2-fluorophenyl)-5-(hydroxymethyl)-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 764 mg | FC1=C(C=CC=C1)N1N=NC(=C1CO)C(=O)N([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)CC(C)C | C29H41FN6O6
